US06608078B2
A mixture of 1-benzyl-3,3-dimethyl-4-hydroxypiperidine (5.0 g, 22.0 mmole) and 20% palladium hydroxide (1.5 g) in methanol (100 ml) was stirred at 50-55° C. in hydrogen atmosphere (1 atm.) for 20 hr. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 3,3-dimethyl-4-hydroxypiperidine as oil. Yield 2.9 g (94%), C7H15NO, m/z 130 (M+1), PMR (CDCl3): 0.83 (3H, s, CH3), 1.13 (3H, s, CH3), 1.29 (1H, m, H5), 1.45-1.9 (2H, m, H5& H6), 2.4 (1H, d, H2, j=12 Hz), 2.68 (1H, d, H2, j=12 Hz), 3.08 (1H, m, H6), 3.4 (1H, dd, H4, j=6 Hz & 12 Hz).

reactant | 1-benzyl-3,3-dimethyl-4-hydroxypiperidine | 22.0 mmole, 5.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)(C)C | C14H21NO
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 1.5 g | [OH-].[Pd+2].[OH-]
product | 3,3-dimethyl-4-hydroxypiperidine | CC1(CNCCC1O)C | C7H15NO
